US06284903B1
Ethyl bromoacetate (14.4 g, 0.094 mol) was added dropwise over 30 min to a stirred solution of 26.2 g (0.1 mol) of triphenylphosphine in 120 ml of benzene maintained at 35 38° C. After stirring for additional 12 h at room temperature the precipitate was filtered and washed twice with hexane to give 34.7 g (86%) of (carboethoxymethyl)-triphenylphosphonium bromide, m.p. 159 160° C. 115 ml of 10% aqueous sodium hydroxide was added dropwise with cooling at 5° C. to a stirred suspension of 118.4 g (0.276 mol) of the bromide in 500 ml of water and 200 ml of chloroform containing a small amount of phenolphthalein. Stirring was continued over 30 min. period without external cooling followed by adding 500 ml of chloroform to give clear layers. The aqueous layer was extracted three times with 100 ml of chloroform and the combined chloroform fractions were dried over sodium sulfate and concentrated in vacuo. Crystallization of the residue from 180 ml of 1:1 mixture of benzene and hexane gave 86.2 g (90%) of pure (carboethoxymethylene)triphenylphosphorane, m.p. 119 120° C.

reactant | Ethyl bromoacetate | 0.094 mol, 14.4 g | BrCC(=O)OCC | C4H7BrO2
reactant | triphenylphosphine | 0.1 mol, 26.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | benzene | 120 ml | C1=CC=CC=C1 | C6H6
product | (carboethoxymethyl)-triphenylphosphonium bromide | 34.7 g, 86% | [Br-].C(=O)(OCC)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C22H22O2P.BrH/c1-2-24-22(23)18-25(19-12-6-3-7-13-19,20-14-8-4-9-15-20)21-16-10-5-11-17-21;/h3-17H,2,18H2,1H3;1H/q+1;/p-1
